US06825170B2
Step A: (2E)-3-[4-(2-Pyrimidinyl)phenyl]-2-butenoic Acid Ethyl Ester
Dioxane (2 mL) was added to a mixture of 2-(4-bromophenyl)pyrimidine (0.59 g, 2.51 mmol, prepared as described in U.S. Pat. No. 5,780,473), tri-t-butylphosphonium tetrafluoroborate (36 mg, 0.12 mmol), and tris(dibenzylideneacetone)dipalladium(0) (57 mg, 0.062 mmol). N-Methyldicyclohexylamine (0.64 mL, 2.99 mmol) and ethyl crotonate (0.62 mL, 4.99 mmol) were added and the mixture was stirred for 18 h at room temperature. The mixture was diluted with ethyl acetate, filtered through a small plug of silica gel which was washed with additional ethyl acetate, and the combined filtrates were concentrated. Purification by chromatography (SiO2, 5:1 hexane/ethyl acetate) provided 0.47 g (70%) of the title compound as an off-white solid. MS 269 (M+H)+.

reactant | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | 2-(4-bromophenyl)pyrimidine | BrC1=CC=C(C=C1)C1=NC=CC=N1 | C10H7BrN2
reactant | N-Methyldicyclohexylamine | 2.99 mmol, 0.64 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | ethyl crotonate | 4.99 mmol, 0.62 mL | C(\C=C\C)(=O)OCC | C6H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.062 mmol, 57 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-t-butylphosphonium tetrafluoroborate | 0.12 mmol, 36 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
product | (2E)-3-[4-(2-Pyrimidinyl)phenyl]-2-butenoic Acid Ethyl Ester | 0.47 g, 70% | C(C)OC(\C=C(/C)\C1=CC=C(C=C1)C1=NC=CC=N1)=O | C16H16N2O2
